US07652061B2
To a solution of the title A compound, (R)-1-[2-(3-hydroxy-phenyl)-acetyl]-pyrrolidine-2-carboxylic acid ethyl ester (1.0 g, 3.61 mmol) in 10 mL DMF is added potassium carbonate (0.60 g, 4.33 mmol) followed by 4-chloromethyl-5-methyl-2-phenyl-oxazole (0.75 g, 3.61 mmol). The mixture is stirred for 24 h at RT, and partitioned between ethyl acetate and water. The organic layer is separated and washed with brine, dried over anhydrous sodium sulfate, concentrated and purified by flash chromatography (silica gel) eluting with hexane:ethyl acetate (3:7) to give (R)-1-{2-[3-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-acetyl}-pyrrolidine-2-carboxylic acid ethyl ester.

reactant | (R)-1-[2-(3-hydroxy-phenyl)-acetyl]-pyrrolidine-2-carboxylic acid ethyl ester | 3.61 mmol, 1.0 g | C(C)OC(=O)[C@@H]1N(CCC1)C(CC1=CC(=CC=C1)O)=O | C15H19NO4
reactant | potassium carbonate | 4.33 mmol, 0.60 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloromethyl-5-methyl-2-phenyl-oxazole | 3.61 mmol, 0.75 g | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (R)-1-{2-[3-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-phenyl]-acetyl}-pyrrolidine-2-carboxylic acid ethyl ester | C(C)OC(=O)[C@@H]1N(CCC1)C(CC1=CC(=CC=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)=O | C26H28N2O5
